US09079889B2
Synthesis of N-(4-((1R,3S,5S)-3-amino-5-methylcyclohexyl)pyridin-3-yl)-6-(2,6-difluoro-3-hydroxyphenyl)-5-fluoropicolinamide
To a solution of tert-butyl (1S,3R,5S)-3-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-5-methylcyclohexylcarbamate (1.0 equiv.) in a microwave vial was added 2,6-difluoro-3-hydroxyphenylboronic acid (5.0 equiv.), KF (5.5 equiv.) and Pd2(dba)3 (0.2 equiv.) followed by THF and water (10:1, 0.03 M). To this mixture was added P(t-Bu)3 (0.4 equiv.) and the reaction was heated in the microwave at 100° C. for 30 min. The organic phase was then separated, the aqueous layer was washed with ethyl acetate, and the organics were combined and concentrated in vacuo. The crude mixture was purified via prep-HPLC, the product fractions were lyophilized and the resulting BOC group was deprotected as described in Method 9 yielding, after RP HPLC purification and lyophilization, N-(4-((1R,3S,5S)-3-amino-5-methylcyclohexyl)pyridin-3-yl)-6-(2,6-difluoro-3-hydroxyphenyl)-5-fluoropicolinamide as the TFA salt. LCMS (m/z): 457.2 (MH+); LC Rt=2.17 min.

reactant | tert-butyl (1S,3R,5S)-3-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-5-methylcyclohexylcarbamate | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)NC=1C=NC=CC1[C@H]1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O)F | C23H28BrFN4O3
reactant | 2,6-difluoro-3-hydroxyphenylboronic acid | 5.0 equiv. | FC1=C(C(=CC=C1O)F)B(O)O | C6H5BF2O3
reactant | KF | 5.5 equiv. | [F-].[K+]
reactant | P(t-Bu)3 | 0.4 equiv. | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd2(dba)3 | 0.2 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.03 M | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-((1R,3S,5S)-3-amino-5-methylcyclohexyl)pyridin-3-yl)-6-(2,6-difluoro-3-hydroxyphenyl)-5-fluoropicolinamide | N[C@@H]1C[C@@H](C[C@@H](C1)C)C1=C(C=NC=C1)NC(C1=NC(=C(C=C1)F)C1=C(C(=CC=C1F)O)F)=O | C24H23F3N4O2
